US08791132B2
To a solution of 8-tert-butyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.0 g, 4.1 mmol) in DMF (6 mL) was added sodium hydride (495 mg, 12.3 mmol) under nitrogen at 0° C. and stirred for 10 min. A solution of 4-(oxiran-2-yl)pyridine (898 mg, 7.4 mmol) in DMF (2 mL) was added dropwise into the reaction mixture at RT and stirred for 12 h. The progress of reaction was monitored by TLC and LCMS. The reaction mass was poured in ice-cold water and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (5×50 mL), dried over anhydrous sodium sulfate and concentrated. The residue was re-crystallized with hexane to yield 2-(8-tert-butyl-2-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol.

reactant | 8-tert-butyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 4.1 mmol, 1.0 g | C(C)(C)(C)C1=CC=2C3=C(NC2C=C1)CCN(C3)C | C16H22N2
reactant | sodium hydride | 12.3 mmol, 495 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 7.4 mmol, 898 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(8-tert-butyl-2-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | C(C)(C)(C)C1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCN(C3)C | C23H29N3O
